US08114872B2
5-(1-Azido-ethyl)-2-fluoro-4-iodo-pyridine
Add sodium azide (0.45 g, 7 mmol) and tetra-N-butylammonium bromide (0.12 g, 0.4 mmol) to a solution of methanesulfonic acid 1-(6-fluoro-4-iodo-pyridin-3-yl)-ethyl ester (1.2 g, 3.5 mmol) in DMF (20 mL) at 0° C. Stir the mixture at RT for 42 h. Dilute the reaction mixture with chloroform. Wash the organic phase with water and saturated aqueous sodium chloride. Dry the organic phase over sodium sulfate. Concentrate the solution in vacuo. Purify by column chromatography (20% ethyl acetate in hexane) to afford the title compound as a white solid (0.77 g, 76%). 1H NMR (400 MHz-CDCl3) δ 1.56 (d, J=6.8 Hz, 1H), 4.90 (m, 1H), 7.45 (d, J=3.2 Hz, 1H), 8.17 (s, 3H).

reactant | sodium azide | 7 mmol, 0.45 g | [N-]=[N+]=[N-].[Na+]
reactant | methanesulfonic acid 1-(6-fluoro-4-iodo-pyridin-3-yl)-ethyl ester | 3.5 mmol, 1.2 g | FC1=CC(=C(C=N1)C(C)OS(=O)(=O)C)I | C8H9FINO3S
catalyst | tetra-N-butylammonium bromide | 0.4 mmol, 0.12 g | CCCC[N+](CCCC)(CCCC)CCCC.[Br-]
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 5-(1-Azido-ethyl)-2-fluoro-4-iodo-pyridine | 0.77 g, 76% | N(=[N+]=[N-])C(C)C=1C(=CC(=NC1)F)I | C7H6FIN4
